US05994351
To a solution of iminoacetic acid disodium salt monhydrate (5.0 grams, 25.6 mmol) in dioxane (50 ml) and water (50 ml) was added triethylamine (5.3 ml, 38 mmol) followed by 4-methoxybenzenesulfonyl chloride 95.8 grams, 28.0 mmol). The mixture was stirred overnight at room temperature and diluted with methylene chloride. The solution was washed with 1 N hydrochloric acid solution, water and brine, dried over magnesium sulfate and concentrated under vacuum leaving [carboxymethyl(4-methoxybenzenesulfonyl)amino]acetic acid as a white solid, 3.83 grams (49%).

reactant | iminoacetic acid disodium salt | [Na+].[Na+].N=CC(=O)[O-].N=CC(=O)[O-]
reactant | water | 50 ml | O | H2O
reactant | triethylamine | 38 mmol, 5.3 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 28.0 mmol, 95.8 grams | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [carboxymethyl(4-methoxybenzenesulfonyl)amino]acetic acid | C(=O)(O)CN(S(=O)(=O)C1=CC=C(C=C1)OC)CC(=O)O | C11H13NO7S
